US07135502B1
Using an analogous procedure to that described for Example 7, N-acetyl-colchicinol was reacted with 4-(3-hydroxypropyl)-1-methylpiperazine to give N-[(5S)-3-(3-(4-methylpiperazin-1-yl)propoxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide.

reactant | N-acetyl-colchicinol | CC(=O)NC1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
reactant | 4-(3-hydroxypropyl)-1-methylpiperazine | OCCCN1CCN(CC1)C | C8H18N2O
product | N-[(5S)-3-(3-(4-methylpiperazin-1-yl)propoxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | Yield: 22% | CN1CCN(CC1)CCCOC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C28H39N3O5
